US08217066B2
Synthesis of 1-{4′-[3-Methyl-4-(2-phenyl-propoxymethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid (Compound 11)
Prepared according to the procedure described in Example 17, Step 2, using 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 2-phenyl-propan-1-ol.

reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | 2-phenyl-propan-1-ol | C1(=CC=CC=C1)C(CO)C | C9H12O
product | 1-{4′-[3-Methyl-4-(2-phenyl-propoxymethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | CC1=NOC(=C1COCC(C)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H29NO4
